US04927838
As in Example 113, (E)-3-(1-butyl-7-methoxy-2-naphthalenyl)-2-propenoic acid (1.35 g) was reacted with 4-nitrophenol (0.73 g) in dichloromethane (25 mL) in the presence of 1,3-dicyclohexylcarbodiimide (0.99 g) to give 1.6 g of (E)-3-(1-butyl-7-methoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester. Crystallization of a portion from diethyl ether furnished the analytical sample, mp 114°-115° C. Anal. Calcd for C24H23NO5 : C, 71.10; H, 5.72; N, 3.45 Found: C, 70.85; H, 5.56; N, 3.24

reactant | (E)-3-(1-butyl-7-methoxy-2-naphthalenyl)-2-propenoic acid | 1.35 g | C(CCC)C1=C(C=CC2=CC=C(C=C12)OC)/C=C/C(=O)O | C18H20O3
reactant | 4-nitrophenol | 0.73 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 0.99 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (E)-3-(1-butyl-7-methoxy-2-naphthalenyl)-2-propenoic acid 4-nitrophenyl ester | 1.6 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C1=C(C2=CC(=CC=C2C=C1)OC)CCCC)=O | C24H23NO5
